US05679689
F. 1,2,3,7a-Tetrahydro-isoindol-3a-ylamine (1-amino-8-azabicyclo[4.3.0]nona-2,4-diene)
20 g of crude methyl 1-methoxycarbonylamino-8-azabicyclo[4.3.0]nona-2,4-diene-8-carboxylate are heated with 75 g (0.235 mol) of Ba(OH)2.8 H2O in 250 ml of water overnight under reflux. The BaCO3 is filtered off with suction, the filtrate is concentrated and the salt residues are boiled three times with 1,4-dioxane. The dioxane solutions are concentrated and the residue is distilled. Yield: 5 g (43.9% of theory based on Step D), boiling point: 65° C./0.2 mbar.

reactant | methyl 1-methoxycarbonylamino-8-azabicyclo[4.3.0]nona-2,4-diene-8-carboxylate | 20 g | COC(=O)NC12C=CC=CC2CN(C1)C(=O)OC | C12H16N2O4
solvent | water | 250 ml | O | H2O
product | 1,2,3,7a-Tetrahydro-isoindol-3a-ylamine | C1NCC2(C=CC=CC12)N | C8H12N2
